US06969710B2
5-Fluoro-2-methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)-phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 5-fluoro-2-methylbenzenesulfonylchloride (50 mg, 0.239 mmol) according to general method 3 to give 60 mg of a purple solid. MS (posES-FIA) m/z=Found: 505.2. Calcd 505.13. 1H-NMR δ 7.73-7.17 (m, 8H), 6.83 (d, 1H), 6.68 (dd, 1H), 6.50 (dd, 1H), 3.27-3.17 (m, 8H), 2.55 (s, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 5-fluoro-2-methylbenzenesulfonylchloride | 0.239 mmol, 50 mg | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | 5-Fluoro-2-methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)-phenyl]benzenesulfonamide | FC=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1)C | C23H25FN4O4S2
